US07169817B2
Step A: 4-[2-(4-Bromophenyl)vinyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole
To a suspension of (4-bromobenzyl)triphenyl-phosphonium bromide (6 mmol) in dry THF (25 mL) is added NaH (6 mmol) in portions. After stirring at room temperature for 30 min, a solution of 4-(t-butyidimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole-4-carbaldehyde (prepared according to Scheme 3 using well-known chemistry in the art) (5 mmol) in THF (10 mL) is added in one portion. The mixture is stirred at room temperature for 12 h. After concentration, the residue is treated with EtOAc/hexane (1/5) (100 mL) and the solid is filtrated. The filtrate is washed with brine and dried over Na2SO4. After concentration, the crude product is purified by column chromatography by EtOAc/hexane (1/5) to give the desired product as a colorless oil. MS: (ES+): 410.1 (M+1)+.

reactant | (4-bromobenzyl)triphenyl-phosphonium bromide | 6 mmol | [Br-].BrC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | NaH | 6 mmol | [H-].[Na+]
reactant | 4-(t-butyidimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole-4-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCC1(N=C(OC1)C)C=O | C12H23NO3Si
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-Bromophenyl)vinyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole | BrC1=CC=C(C=C1)C=CC1(N=C(OC1)C)CO[Si](C)(C)C(C)(C)C | C19H28BrNO2Si
